### PR TITLE
feat(Geometry/Convex): add polytopes

### PR DESCRIPTION
**Pull request by martinwintermath**
This PR adds the predicate `IsPolytope` for a subset of a `ConvexSpace`.

This is the first PR in a series of PRs implementing polytope theory.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Parcly-Taxel** [comment]
I would prefer convex polytopes to be defined as they are in the `platonic_classification` lean-eval task – Grünbaum's definition as a finite point set equivalent to the extreme points of its own convex hull. (I have removed a non-emptiness condition from the task code as the "empty polytope" is a thing.)
```lean
structure Polytope where
  v : Finset X
  v_eq_extremePoints : (v : Set X) = Set.extremePoints R (convexHull R (v : Set X))
```

File: Mathlib/Geometry/Convex/Polytope/Basic.lean
Comment (Parcly-Taxel) [inline Mathlib/Geometry/Convex/Polytope/Basic.lean:1]: And thus there should be no need for this file.

Comment (martinwintermath) [reply Mathlib/Geometry/Convex/Polytope/Basic.lean:1]: I pondered a definition like this before, but at this time, I see the following reasons _not_ to do this:
1. This PRs definition of polytope is intentionally parallel to the definition of a finitely generated cone. Defining it as a finitely generated convex object is very natural. It is also very easy to apply.
2. The fact that a polytope is spanned by its extreme points is a non-trivial theorem (the finite Krein-Milman theorem) which is, I believe, not unconditionally true in the generality we are aiming for. Extreme points are also not defined on `ConvexSpace`.
3. A definition based on set carrier + property is somewhat standard. It will also be applied for `ConvexSet` (#39205). I see no reason for assuming minimality of the generating set in the definition, rather than providing it as a theorem later.

If there is a longer discussion to be had, please let us have it here: [#maths > Polyhedra in mathlib](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Polyhedra.20in.20mathlib/with/603506760)

File: Mathlib/Geometry/Convex/Polytope/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,93 @@
...
+
+open ConvexSpace
+
+section Semiring
+
+variable [Semiring R] [PartialOrder R] [IsStrictOrderedRing R]
+variable [ConvexSpace R X]
+
+variable (R) in
+/-- A set is a polytope if it is the convex hull of finitely many points. -/
```
Comment (vihdzp) [inline Mathlib/Geometry/Convex/Polytope/Basic.lean]: In the setting of `ℝⁿ`, I'm aware of two equivalent definitions:

- A polytope is the convex hull of a finite set.
- A polytope is a bounded polyhedron, where a polyhedron (a name I really dislike) is defined as the intersection of finitely many bounded planes.

Do you know what typeclass assumptions make these two equivalent? Might there be any problem where certain "expected" theorems don't actually work under our loosest typeclasses?

File: Mathlib/Geometry/Convex/Polytope/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,93 @@
...
+lemma subsingleton (hP : P.Subsingleton) : IsPolytope R P := by
+  obtain rfl | ⟨x, rfl⟩ := hP.eq_empty_or_singleton <;> simp
+
+variable (R) in
+lemma convexHull_finite {v : Set X} (hv : v.Finite) :
+    IsPolytope R (convexHull R v) := by use hv.toFinset; simp
+
+lemma convexHull_union (h₁ : IsPolytope R P₁) (h₂ : IsPolytope R P₂) :
+    IsPolytope R (convexHull R (P₁ ∪ P₂)) := by classical
+  obtain ⟨v₁, rfl⟩ := h₁
```
Comment (vihdzp) [inline Mathlib/Geometry/Convex/Polytope/Basic.lean:86]:
```suggestion
    IsPolytope R (convexHull R (P₁ ∪ P₂)) := by
  classical
  obtain ⟨v₁, rfl⟩ := h₁
```

File: Mathlib/Geometry/Convex/Polytope/Basic.lean (hunk 1 above)
Comment (martinwintermath) [reply Mathlib/Geometry/Convex/Polytope/Basic.lean]: This holds only over fields (maybe over division rings if we get the definitions right). Also, strictly speaking, this needs finite dimensions, but there are ways to get around this.

We already proved this equivalence for FG cones and transfer it to polytope via homogenization.

Another elementary statement that fails under loose assumptions is that the intersection of polytopes is a polytope. This requires field, or rings like Z or the tropical semiring. Again, we already proved some of these but they need more setup and are therefore contained in a later PR.

File: Mathlib/Geometry/Convex/Polytope/Basic.lean (hunk 2 above)
Comment (martinwintermath) [reply Mathlib/Geometry/Convex/Polytope/Basic.lean:86]: I can't find the thread right now, but it was decided before that a one-line "by classical" is valid style.

File: Mathlib/Geometry/Convex/Polytope/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,93 @@
...
+variable (R X) in
+@[simp] protected lemma empty : IsPolytope R (∅ : Set X) := by
+  use ∅; simp
+
+variable (R) in
+@[simp] protected lemma singleton (x : X) : IsPolytope R {x} := by
+  use {x}; simp
+
+variable (R) in
+lemma subsingleton (hP : P.Subsingleton) : IsPolytope R P := by
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Polytope/Basic.lean]:
```suggestion
lemma of_subsingleton (hP : P.Subsingleton) : IsPolytope R P := by
```

File: Mathlib/Geometry/Convex/Polytope/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,93 @@
...
+  obtain rfl | ⟨x, rfl⟩ := hP.eq_empty_or_singleton <;> simp
+
+variable (R) in
+lemma convexHull_finite {v : Set X} (hv : v.Finite) :
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Polytope/Basic.lean]:
```suggestion
lemma convexHull_of_finite {v : Set X} (hv : v.Finite) :
```

File: Mathlib/Geometry/Convex/Polytope/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,93 @@
...
+    IsPolytope R (convexHull R v) := by use hv.toFinset; simp
+
+lemma convexHull_union (h₁ : IsPolytope R P₁) (h₂ : IsPolytope R P₂) :
+    IsPolytope R (convexHull R (P₁ ∪ P₂)) := by classical
+  obtain ⟨v₁, rfl⟩ := h₁
+  obtain ⟨v₂, rfl⟩ := h₂
+  use v₁ ∪ v₂
+  simp [convexHull_union_convexHull, convexHull_convexHull_union]
+
+lemma convexHull_sUnion_finite {p : Set (Set X)} (hp : p.Finite)
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Polytope/Basic.lean]:
```suggestion
lemma convexHull_sUnion_of_finite {p : Set (Set X)} (hp : p.Finite)
```

File: Mathlib/Geometry/Convex/Polytope/Basic.lean (hunk 1 above)
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Polytope/Basic.lean]: Can you clarify that this the V-polytope definition? No need to change the name of the predicate

**Review by YaelDillies — COMMENTED** [review]
Let's drop `.Lattice` for now, and then this is good to go.

File: Mathlib/Geometry/Convex/Polytope/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,98 @@
...
+section Semiring
+
+variable [Semiring R] [PartialOrder R] [IsStrictOrderedRing R]
+variable [ConvexSpace R X]
+
+variable {P P₁ P₂ : Set X}
+
+lemma isConvexSet (hP : IsPolytope R P) : IsConvexSet R P := by
+  obtain ⟨_, rfl⟩ := hP
+  exact IsConvexSet.convexHull
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Polytope/Basic.lean]: nit:
```suggestion
  exact .convexHull
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Geometry/Convex/Polytope/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,98 @@
...
+
+open ConvexSpace
+
+section Semiring
+
+variable [Semiring R] [PartialOrder R] [IsStrictOrderedRing R]
+variable [ConvexSpace R X]
+
+variable (R) in
+/-- A set is a polytope if it is the convex hull of finitely many points. This is the V-polytope
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/Polytope/Basic.lean]:
```suggestion
/-- A set is a *polytope* if it is the convex hull of finitely many points. This is the V-polytope
```

File: Mathlib/Geometry/Convex/Polytope/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,98 @@
...
+definition for convex polytope. -/
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/Polytope/Basic.lean]:
```suggestion
definition of convex polytope. -/
```
maybe? (Not a native speaker.)

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! I have a couple of minor points (below). The code LGTM.

My biggest question is one of documentation: there has been *a lot* of discussion about the design here: whether to have bundled polytopes also, whether to use V- or H-polytopes, etc.
It would be great to have this documented for future readers. What's your plan here? One option is extending the module doc-string (we don't describe enough design motivations in general!). I don't want to insist on this particular solution, but it would be great to have some form of documentation. What do you think?

**Comment by martinwintermath** [comment]
> My biggest question is one of documentation: there has been _a lot_ of discussion about the design here: whether to have bundled polytopes also, whether to use V- or H-polytopes, etc. It would be great to have this documented for future readers. What's your plan here? One option is extending the module doc-string (we don't describe enough design motivations in general!). I don't want to insist on this particular solution, but it would be great to have some form of documentation. What do you think?

I added some details to the file doc-string. For the TODO I state what needs to be done, but not that we are already on it. Is this the place to say something like this?

File: Mathlib/Geometry/Convex/Polytope/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,107 @@
...
+-/
+module
+
+public import Mathlib.LinearAlgebra.AffineSpace.AffineSubspace.Defs
+public import Mathlib.Geometry.Convex.ConvexSpace.AffineSpace
+public import Mathlib.Geometry.Convex.Hull
+public import Mathlib.Algebra.Group.Pointwise.Finset.Scalar
+
+/-!
+This file introduces convex polytopes as V-polytopes and proves basic facts.
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/Polytope/Basic.lean]: Oops, I just realized this comment was never sent. Sorry!
Let's have a proper header:

```suggestion
# Convex polytopes

This file introduces convex polytopes as V-polytopes and proves basic facts about them.
```

File: Mathlib/Geometry/Convex/Polytope/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,107 @@
...
+
+## Main declarations
+
+* `IsPolytope`: states that a set is the convex hull of finitely many points.
+
+## Remarks
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/Polytope/Basic.lean]: The usual title for this section is "Implementation notes".

The current wording begs the question why the current choice was made. Intentional?

File: Mathlib/Geometry/Convex/Polytope/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,107 @@
...
+
+* We decided to not implement bundled polytope until a clear usecase comes up.
+
+## TODO
+
+* Implement `IsPolyhedron` using the H-definition.
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/Polytope/Basic.lean]: One way to mention future work is a sentence like "Future PRs will define polyhedra (using H-spaces) and prove that polytopes are H-polyhedra in vector spaces." in the PR description.

**Review by grunweg — COMMENTED** [review]
Thanks. I've commented on your question below (and also spotted one comment I had not sent for some reason; sorry).

**Comment by martinwintermath** [comment]
> Thanks. I've commented on your question below (and also spotted one comment I had not sent for some reason; sorry).

Better?

File: Mathlib/Geometry/Convex/Polytope/Basic.lean
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/Polytope/Basic.lean:1]: > Extreme points are also not defined on ConvexSpace.

Nothing that can't be fixed. See my open PRs.

**Review by YaelDillies — APPROVED** [review]

File: Mathlib/Geometry/Convex/Polytope/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,112 @@
...
+
+namespace IsPolytope
+
+section Semiring
+
+variable [Semiring R] [PartialOrder R] [IsStrictOrderedRing R]
+variable [ConvexSpace R X]
+
+variable {P P₁ P₂ : Set X}
+
```
Comment (ooovi) [inline Mathlib/Geometry/Convex/Polytope/Basic.lean:63]:
```suggestion

theorem isPolytope_def : IsPolytope R P ↔ ∃ t : Finset X, P = convexHull R t := by rfl

theorem exists_finset_convexHull (h : IsPolytope R P) : ∃ t : Finset X, P = convexHull R t :=
  isPolytope_def.mp h

```

File: Mathlib/Geometry/Convex/Polytope/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,112 @@
...
+open ConvexSpace
+
+section Semiring
+
+variable [Semiring R] [PartialOrder R] [IsStrictOrderedRing R]
+variable [ConvexSpace R X]
+
+variable (R) in
+/-- A set is a *polytope* if it is the convex hull of finitely many points. This is the V-polytope
+definition of convex polytope. -/
```
Comment (ooovi) [inline Mathlib/Geometry/Convex/Polytope/Basic.lean:50]:
```suggestion
/-- A set is a *polytope* if it is the convex hull of finitely many points. This is the V-definition
of a convex polytope. -/
```

File: Mathlib/Geometry/Convex/Polytope/Basic.lean (hunk 12 above)
Comment (ooovi) [reply Mathlib/Geometry/Convex/Polytope/Basic.lean:63]: Sorry I'm late to the party. Since the def is not exposed, these are needed to unfold and get the generators.
